US04775675
2-(3,5-Dibromo-4-hydroxyphenyl)-5,5-dimethylthiazolidine-4(S)-carboxylic acid
A solution containing 5.6 g (20 mmoles) of 3,5-dibromo-4-hydroxybenzaldehyde and 3 g (20 mmoles) of D-penicillamine in 100 ml of 30% methanol is stirred for 16 hours. The precipitated product is filtered and washed with aqueous methanol to give 6.77 g (82.3%) of the title acid which can be recrystallized from a mixture containing ethanol, dimethylformamide and water, m.p.: 154°-155° C., [α]D25 =+87° (c=1.362, dimethylsulphoxide).

reactant | 3,5-dibromo-4-hydroxybenzaldehyde | 20 mmoles, 5.6 g | BrC=1C=C(C=O)C=C(C1O)Br | C7H4Br2O2
reactant | D-penicillamine | 20 mmoles, 3 g | N[C@H](C(C)(C)S)C(=O)O | C5H11NO2S
solvent | methanol | 100 ml | CO | CH4O
product | 2-(3,5-Dibromo-4-hydroxyphenyl)-5,5-dimethylthiazolidine-4(S)-carboxylic acid | 6.77 g, 82.3% | BrC=1C=C(C=C(C1O)Br)C1SC([C@@H](N1)C(=O)O)(C)C | C12H13Br2NO3S
